US07214673B2
1,4-Dibenzyl-2-styryl-piperazine
Combine tri-o-tolylphosphine (1.05 g, 3.46 mmol), palladium acetate (175 mg, 0.78 mmol), triethylamine (3.26 mL, 23.4 mmol), iodobenzene (2.74 mL, 24.5 mmol), 1,4-dibenzyl-2-vinyl-piperazine (3.26 g, 11.1 mmol) and acetonitrile (50 mL) in a sealable vessel and purge with nitrogen. Seal the vessel and heat at 110° C. After 20 hours 45 minutes, cool to ambient temperature and dilute with ethyl acetate. Filter and discard the solids. Concentrate the filtrate and purify by silica gel chromatography using ethyl acetate-hexanes (0–100%) as the eluent to give the title compound: mass spectrum (ion spray): m/z=369 (M+1); 1H NMR (DMSO-d6): δ7.41 (d, 2H), 7.18–7.34 (m, 13H), 6.64 (d, 1H), 6.27 (dd, 1H), 3.94 (d, 1H), 3.46 (dd, 2H), 3.10 (d, 1H), 3.02 (dt, 1H), 2.56–2.70 (m, 3H), 2.05–2.19 (m, 3H).

reactant | tri-o-tolylphosphine | 3.46 mmol, 1.05 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 23.4 mmol, 3.26 mL | C(C)N(CC)CC | C6H15N
reactant | iodobenzene | 24.5 mmol, 2.74 mL | IC1=CC=CC=C1 | C6H5I
reactant | 1,4-dibenzyl-2-vinyl-piperazine | 11.1 mmol, 3.26 g | C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)C=C | C20H24N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium acetate | 0.78 mmol, 175 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 1,4-Dibenzyl-2-styryl-piperazine | C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)C=CC1=CC=CC=C1 | C26H28N2
